US07776857B2
A round bottom flask was charged with (2S,4R)-4-fluoropyrrolidine-2-carboxylic acid (300 mg, 2254 μmol) and 22 mL MeOH. The heterogeneous mixture was cooled to 0° C. under nitrogen, and thionyl chloride (181 μl, 2479 μmol) was added dropwise. The reaction mixture was allowed to warm slowly to RT, and stirring was continued overnight at 65° C. The mixture was concentrated under high vacuum to provide methyl 4-fluoropyrrolidine-2-carboxylate hydrochloride as a mixture of the (2S,4R) and (2R,4R) diastereomers, confirmed by 1H and 13C NMR.

reactant | (2S,4R)-4-fluoropyrrolidine-2-carboxylic acid | 2254 μmol, 300 mg | F[C@@H]1C[C@H](NC1)C(=O)O | C5H8FNO2
reactant | thionyl chloride | 2479 μmol, 181 μl | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 22 mL | CO | CH4O
product | methyl 4-fluoropyrrolidine-2-carboxylate hydrochloride | Cl.FC1CC(NC1)C(=O)OC | InChI=1S/C6H10FNO2.ClH/c1-10-6(9)5-2-4(7)3-8-5;/h4-5,8H,2-3H2,1H3;1H
